US08182718B2
6-Butyl-6′-methyl-2,2′-bipyridine
To a flask were added 1.2 g 6-butylpyridin-2-yl trifluoromethanesulfonate, 0.36 g lithium chloride and 10 ml dry tetrahydrofuran. Addition of 12 ml of a 0.5M solution of 6-methyl-2-pyridylzinc bromide in tetrahydrofuran was followed by addition of 242 mg of tetrakis(triphenylphosphine)palladium. The reaction was heated to reflux under nitrogen for 16 hours. The reaction was cooled to 22 C and quenched by adding a solution of 6 g of ethylene diamine tetraacetic acid in 40 ml water pH adjusted to 8 with aqueous sodium bicarbonate. 50 ml Hexane and 20 ml ethyl acetate were added and the mixture was stirred for one hour before the aqueous layer was removed and the organic layer was dried over sodium sulfate. After filtration and solvent removal, the product was purified by silica gel chromatography using 5% ethyl acetate in hexane to give 0.7 g clear colorless oil.

reactant | 6-butylpyridin-2-yl trifluoromethanesulfonate | 1.2 g | FC(S(=O)(=O)OC1=NC(=CC=C1)CCCC)(F)F | C10H12F3NO3S
reactant | lithium chloride | 0.36 g | [Cl-].[Li+]
reactant | 6-methyl-2-pyridylzinc bromide | [Br-].CC1=CC=CC(=N1)[Zn+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 242 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-Butyl-6′-methyl-2,2′-bipyridine | 0.7 g | C(CCC)C1=CC=CC(=N1)C1=NC(=CC=C1)C | C15H18N2
